US07666877B2
Lysergic acid (8.05 g, 30 mmol) is suspended in dioxane and is treated with dropwise addition of TFA (exothermic). Bromine (1.54 ml, 30 mmol, 1.0 eq.) in chloroform is added dropwise. The reaction is cooled to 5° C. and product crystallizes. (6aR,9R)-5-Bromo-7-methyl-4,6,6a,7,8,9-hexahydro-indolo[4,3-fg]quinoline-9-carboxylic acid is isolated by filtration and re-crystallised from diethylether. Rf=0.5, 10% MeOH:DCM, M+H+=346, 348, m.p.>245 (decomposition).

reactant | Lysergic acid | 30 mmol, 8.05 g | OC(=O)[C@H]1CN(C)[C@@H]2CC3=CNC4=CC=CC(C2=C1)=C34 | C16H16N2O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Bromine | 30 mmol, 1.54 ml, 1.0 eq. | BrBr | Br2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (6aR,9R)-5-Bromo-7-methyl-4,6,6a,7,8,9-hexahydro-indolo[4,3-fg]quinoline-9-carboxylic acid | BrC=1NC2=CC=CC=3C4=C[C@H](CN([C@@H]4CC1C32)C)C(=O)O | C16H15BrN2O2
